US09371320B2
E) 4-(1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl)phenol
To a mixture of 1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (1.13 g), 4-hydroxyphenylboronic acid (0.43 g) and sodium carbonate (1.01 g) in DMF (10 mL) was added dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II) (73 mg) under nitrogen atmosphere. The reaction mixture was stirred at 90° C. for 3 hr. The reaction mixture was added to water, and the mixture was adjusted to pH=5 with acetic acid, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (725 mg).

reactant | 1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 1.13 g | FC(S(=O)(=O)OC=1C(CN(CC1)CC1=CC=CC=C1)(F)F)(F)F | C13H12F5NO3S
reactant | 4-hydroxyphenylboronic acid | 0.43 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 1.01 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl)phenol | 725 mg | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC=C(C=C1)O)(F)F | C18H17F2NO
